US09359362B2
(rac)-7-[4-Cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under argon, (rac)-2-amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (60 mg, 0.17 mmol) together with phthalic anhydride (50.02 mg, 0.34 mmol, 2.0 eq.) was suspended in a mixture of toluene (4 ml) and pyridine (2 ml), triethylamine (4.7 μl, 0.034 mmol, 0.2 eq.) was added and the mixture was heated under reflux for 2 h. The reaction mixture was then concentrated under reduced pressure. From the residue, the product was precipitated by addition of ethanol (2 ml) in an ultrasonic bath. The precipitate was filtered off and dried under high vacuum. This gave 67 mg (75.6% of theory) of the title compound.

reactant | (rac)-2-amino-7-[4-cyano-2-(methylsulfonyl)phenyl]-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 0.17 mmol, 60 mg | NC1=NN2C(NC(=C(C2C2=C(C=C(C=C2)C#N)S(=O)(=O)C)C#N)C)=N1 | C15H13N7O2S
reactant | phthalic anhydride | 0.34 mmol, 50.02 mg, 2.0 eq. | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | triethylamine | 0.034 mmol, 4.7 μl, 0.2 eq. | C(C)N(CC)CC | C6H15N
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | (rac)-7-[4-Cyano-2-(methylsulfonyl)phenyl]-2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC(=C(C=C1)C1C(=C(NC=2N1N=C(N2)N2C(C1=CC=CC=C1C2=O)=O)C)C#N)S(=O)(=O)C | C23H15N7O4S
